* Xyce Common Source Circuit

.lib "../../Models/libs.tech/Xyce/sky130.lib.spice" fs

*****************
** main netlist
*****************
X1 d g 0 0 sky130_fd_pr__nfet_03v3_nvt W = 4.0 L = 0.5
R1 d vdd 1000

V1 g 0 DC 1 AC 1 SIN(0 1 1k)
VDD vdd 0 3.3


*****************
** Analysic
*****************
.DC v1 0 3.3 0.1
.print DC FILE=./xyce_results/sky130_fd_pr__nfet_03v3_nvt_dc_W_4.0_L_0.5_fs_xyce.csv FORMAT=CSV {-i(vdd)}

.end
